US05183492
4.9 g of sodium hydride (50% dispersion in white oil) are added to 120 ml of dimethylformamide while stirring and the mixture is cooled to -5° C. At this temperature a solution of 22.4 g of ethyl 3-amino-4,4,4-trifluorocrotonate in 180 ml of diethyl ether is added dropwise during 30 minutes. The reaction mixture is stirred at room temperature for one hour and thereafter cooled to -65° C. A solution of 28 g of ethyl 2-(2-chloro-5-isocyanato-benzoyloxy)-2-methylpropionate in 100 ml of dimethylformamide is now added dropwise during 30 minutes. The reaction mixture is stirred at -65° C. for 2 hours; thereafter it is left to warm to room temperature. The reaction mixture is introduced into 300 ml of 1N hydrochloric acid at 0° C. The mixture is extracted twice with 300 ml of ethyl acetate each time. The organic phases are back-washed once with 200 ml of water and once with 200 ml of saturated sodium chloride solution, dried over anhydrous sodium sulphate and concentrated under reduced pressure. The residue is recrystallized from ethyl acetate/n-hexane. There is obtained ethyl 2-{2-chloro-5-[3,6-dihydro-2,6-dioxo-4-trifluoromethyl-1(2H)-pyrimidinyl]-benzoyloxy}-2-methylpropionate, m.p. 176°-177° C.

reactant | sodium hydride | 4.9 g | [H-].[Na+]
reactant | ethyl 3-amino-4,4,4-trifluorocrotonate | 22.4 g | N\C(=C/C(=O)OCC)\C(F)(F)F | C6H8F3NO2
reactant | ethyl 2-(2-chloro-5-isocyanato-benzoyloxy)-2-methylpropionate | 28 g | ClC1=C(C(=O)OC(C(=O)OCC)(C)C)C=C(C=C1)N=C=O | C14H14ClNO5
reactant | hydrochloric acid | 1N, 300 ml | Cl | ClH
solvent | diethyl ether | 180 ml | C(C)OCC | C4H10O
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 120 ml | CN(C=O)C | C3H7NO
product | ethyl 2-{2-chloro-5-[3,6-dihydro-2,6-dioxo-4-trifluoromethyl-1(2H)-pyrimidinyl]-benzoyloxy}-2-methylpropionate | ClC1=C(C(=O)OC(C(=O)OCC)(C)C)C=C(C=C1)N1C(NC(=CC1=O)C(F)(F)F)=O | C18H16ClF3N2O6
